US07115611B2
B] [4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-carbamic acid ethyl ester
1.00 g (3.2 mmol) of 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 27F]) was dissolved in 20 ml of DMF. Then, the reaction mixture was cooled down to 0° C. 0.36 ml=0.366 g (3.52 mmol) of methyl-carbamic acid ethyl ester was added to the stirred solution, followed by 0.14 g (3.2 mmol) of sodium hydride (55%). After 18 hours, the reaction mixture was poured into crashed ice, the pH was adjusted to <3 with HCl/H2O and it was then extracted twice with Et2O. The combined organic phases were washed with water, dried over anhydrous magnesium sulfate and evaporated. The crude product was purified by flash chromatography (SiO2, gradient of EtOAc, n-heptane) to give 0.87 g of the title compound as light yellow solid.

reactant | 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | 3.2 mmol, 1.00 g | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H12ClF3N2
reactant | methyl-carbamic acid ethyl ester | 3.52 mmol, 0.366 g | C(C)OC(NC)=O | C4H9NO2
reactant | sodium hydride | 3.2 mmol, 0.14 g | [H-].[Na+]
reactant | HCl H2O | Cl.O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | [4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-methyl-carbamic acid ethyl ester | 0.87 g | C(C)OC(N(C)CC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C19H20F3N3O2
